US04478833
2(2-Hydroxyethyl-amino)-8-(5-hydroxy-1,5-dimethylhexylamino)-4-(1-oxido-thiomorpholino)-pyrimido[5,4-d]pyrimidine
This compound was prepared analogous to Example 2 from 2-chloro-8-(5-hydroxy-1,5-dimethylhexyl-amino)-4-(1-oxido-thiomorpholino)-pyrimido[5,4-d]pyrimidine (resin) and 2-hydroxyethyl-amine. Resin.

reactant | 2-chloro-8-(5-hydroxy-1,5-dimethylhexyl-amino)-4-(1-oxido-thiomorpholino)-pyrimido[5,4-d]pyrimidine | ClC=1N=C(C2=C(N1)C(=NC=N2)NC(CCCC(C)(C)O)C)N2CCS(CC2)=O | C18H27ClN6O2S
reactant | 2-hydroxyethyl-amine | OCCN | C2H7NO
product | 2(2-Hydroxyethyl-amino)-8-(5-hydroxy-1,5-dimethylhexylamino)-4-(1-oxido-thiomorpholino)-pyrimido[5,4-d]pyrimidine | OCCNC=1N=C(C2=C(N1)C(=NC=N2)NC(CCCC(C)(C)O)C)N2CCS(CC2)=O | C20H33N7O3S
